US07491713B2
Step C: Methyl N-(tert-butoxycarbonyl)-S-{2-[(cyclopropylmethyl)amino]-1-phenylethyl}-D-cysteinate
Cyclopropanecarboxaldheyde (104 mg, 1.48 mmol) was added to a solution of methyl S-(2-amino-1-phenylethyl)-N-(tert-butoxycarbonyl)-D-cysteinate (583 mg, 1.65 mmol) in methanol (25 mL) adjusted to pH 6 with acetic acid. After 15 min, sodium cyanoborohydride (155 mg, 2.47 mmol) was added. After an additional 1 h, saturated aqueous sodium bicarbonate was added and the mixture was extracted with dichlormethane (2×). The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated. Purification by silica gel [100% dichloromethane->97% dichloromethane/3% (10% ammonium hydroxide in methanol)] gave the title compound (305 mg). MS 409 (M+1).

reactant | methyl S-(2-amino-1-phenylethyl)-N-(tert-butoxycarbonyl)-D-cysteinate | 1.65 mmol, 583 mg | NCC(C1=CC=CC=C1)SC[C@@H](NC(=O)OC(C)(C)C)C(=O)OC | C17H26N2O4S
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 2.47 mmol, 155 mg | C(#N)[BH3-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 25 mL | CO | CH4O
product | Methyl N-(tert-butoxycarbonyl)-S-{2-[(cyclopropylmethyl)amino]-1-phenylethyl}-D-cysteinate | 305 mg | C(C)(C)(C)OC(=O)N[C@H](CSC(CNCC1CC1)C1=CC=CC=C1)C(=O)OC | C21H32N2O4S
